US09102673B2
Intermediate C3: Tert-butyl propyl[5-(tributylstannanyl)-1,3-thiazol-2-yl]carbamate
To a solution of 2-(N-BOC)-5-(tributylstannyl)thiazole (200 mg, 0.409 mmole) in DMF (2 mL) was added NaH (60% dispersion in mineral oil, 20 mg, 0.500 mmole) at RT. After gas evolution had ceased 1-iodopropane (0.048 mL, 0.490 mmole) was added and the mixture was heated to 60° C. After stirring overnight the mixture was cooled to RT, diluted with H2O, and extracted with EtOAc (3×). The combined organic layers were washed with H2O and brine, dried (MgSO4), filtered, and concentrated. Flash column chromatography (Biotage-SNAP-25 g SiO2, 0-10% EtOAc/hexanes) gave the title compound (155 mg, 71%) as a clear oil. 1H NMR (400 MHz, CDCl3): δ 7.33 (s, 1 H); 4.11-4.03 (m, 2 H); 1.79-1.69 (m, 1 H); 1.62-1.52 (m, 18 H); 1.38-1.28 (m, 7 H); 1.13-1.05 (m, 7 H); 0.95 (m, 3 H); 0.93-0.84 (m, 9 H).

reactant | 2-(N-BOC)-5-(tributylstannyl)thiazole | 0.409 mmole, 200 mg | CCCC[Sn](CCCC)(CCCC)C1=CN=C(S1)NC(=O)OC(C)(C)C
reactant | NaH | 0.500 mmole, 20 mg | [H-].[Na+]
reactant | 1-iodopropane | 0.490 mmole, 0.048 mL | ICCC | C3H7I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | Tert-butyl propyl[5-(tributylstannanyl)-1,3-thiazol-2-yl]carbamate | 155 mg, 71% | C(CC)N(C(OC(C)(C)C)=O)C=1SC(=CN1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C11H17N2O2S.3C4H9.Sn/c1-5-7-13(9-12-6-8-16-9)10(14)15-11(2,3)4;3*1-3-4-2;/h6H,5,7H2,1-4H3;3*1,3-4H2,2H3;
